US04894386
Sodium hydride (0.048 g of a 60% dispersion in oil) was added to a stirred solution of methyl E-3-methoxy-4-[5-[2-(propylcarbamoyl)-1-propenyl]indol-3-ylmethyl]benzoate (0.5 g) in N,N-dimethylformamide (5 ml), under an atmosphere of nitrogen. After 0.5 hr, allyl bromide (0.14 g) was added and stirring continued for 3 hr. The solution was acidified with 1M hydrochloric acid (10 ml), diluted with water (20 ml), extracted with ethyl acetate (twice), and the organic phase was washed with water (4 times), brine, and dried (MgSO4). The solvent was evaporated to give an oil which was purified by flash chromatography, eluting with 2:1:1 hexane:methylene chloride:ethyl acetate, to give methyl E-4[1-allyl-5-[2-(propylcarbamoyl)-1-propenyl]indol-3-ylmethyl)-3-methoxybenzoate (0.36 g, 66%) as a white foam; partial NMR (250 MHz, DMSO-d6) 0.87(t, 3H, CH2CH2CH3), 1.47(m, 2 H, CH2CH2CH3), 1.99(s, 3H, CCH3), 3.11(m, 2H, CH2CH2CH3), 3.83(s, 3H, OCH3), 3.90(s, 3H, OCH3), 4.06(s, 2H, ArCH2Ar'), 4.77(br d, J=5.3 Hz, 2H, NCH2CH:C), 5.00-5.16(m, 2H, olefinic H), 6.0(m, 1H, olefinic H), 7.94(br t, 1H, NHCO).

reactant | Sodium hydride | [H-].[Na+]
reactant | methyl E-3-methoxy-4-[5-[2-(propylcarbamoyl)-1-propenyl]indol-3-ylmethyl]benzoate | 0.5 g | COC=1C=C(C(=O)OC)C=CC1CC1=CNC2=CC=C(C=C12)\C=C(/C)\C(NCCC)=O | C25H28N2O4
reactant | allyl bromide | 0.14 g | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | 1M, 10 ml | Cl | ClH
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | methyl E-4[1-allyl-5-[2-(propylcarbamoyl)-1-propenyl]indol-3-ylmethyl)-3-methoxybenzoate | 0.36 g, 66% | C(C=C)N1C=C(C2=CC(=CC=C12)\C=C(/C)\C(NCCC)=O)CC1=C(C=C(C(=O)OC)C=C1)OC | C28H32N2O4
